US06559145B2
5-Hydroxy-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidine-6-carboxamides. As described in Chart BL, (4-morpholinyl)acetic acid trifluoroacetic acid salt BL.1 (J. Med. Chem. 1994, 37, 4538-4554) is cyclized to the thiadiazole BL.2 with aminoguanidine in polyphosphoric acid. Condensation of BL.2 with diethyl ethoxymethylenemalonate followed by thermal cyclization affords thiadiazolopyrimidine BL.3. The resulting ester BL.3 is then saponified to afford the corresponding acid BL.4 which is then coupled with a benzylamine (e.g. 4-chlorobenzylamine) mediated by 1,1′-carbonyldiimidazole (or other suitable carboxylic acid activating agent) to provide amides of the general formula BL.5. A specific example of heterocycle W19.2 in which R8=OH is also prepared as described in Chart BL. Thiadiazole BL.2 is heated in xylenes with diethyl 2-(((4-chlorobenzyl)amino) carbonyl)malonate (prepared by the reaction of 4-chlorobenzyl-amine with triethyl methanetricarboxylate) to afford thiadiazolopyrimidine BL.6.

reactant | Thiadiazole | S1N=NC=C1 | C2H2N2S
reactant | diethyl 2-(((4-chlorobenzyl)amino) carbonyl)malonate | ClC1=CC=C(CNC(=O)C(C(=O)OCC)C(=O)OCC)C=C1 | C15H18ClNO5
reactant | 4-chlorobenzyl-amine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triethyl methanetricarboxylate | C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C10H16O6
product | thiadiazolopyrimidine | N1=NSC2=C1C=NC=N2 | C4H2N4S
